US04009166
To a solution of 3.3 g of 2-(m-iodoanilino)-3-aminomethylpyridine and 30 ml of dry tetrahydrofuran was added 3.2 g of N,N'-carbonyldiimidazole and the mixture was heated under reflux for 12 hours. After the reaction was complete, the solvent was removed from the reaction mixture by distillation under reduced pressure. The residue thus obtained was dissolved in acetone. The acetone solution was placed on a column of alumina and eluted with acetone. The eluate was concentrated and left to yield 2.5 g of 1-(m-iodophenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine as colorless needles, melting at 175° - 177° C.

reactant | 2-(m-iodoanilino)-3-aminomethylpyridine | 3.3 g | IC=1C=C(NC2=NC=CC=C2CN)C=CC1 | C12H12IN3
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(m-iodophenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 2.5 g | IC=1C=C(C=CC1)N1C(NCC2=C1N=CC=C2)=O | C13H10IN3O
